US05840764
3-Ethoxy-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione (0.4 g, 1.62 mmol) and (R)-2-amino-3,3-dimethylbutane (16 mL of a 0.2M solution in absolute ethanol, 3.20 mmol) in dichloromethane (4 mL) was heated at 80° C. for 4 hours. The reaction mixture was cooled, concentrated under reduced pressure, and the resulting residue was trituated with hexane:ethyl acetate (1:1) to produce a solid, which was filtered and rinsed with hexane:ethyl acetate (1:1). Chromatography with 10% methanol in dichloromethane gave (R)-3-(2-hydroxy-6-methylphenylamino)-4-(2,2,1-trimethylpropyl-amino)-cyclobut-3-ene-1,2-dione, 0.24 g (0.79 mmol, 49%).

reactant | 3-Ethoxy-4-(2-hydroxy-6-methyl-phenylamino)-cyclobut-3-ene-1,2-dione | 1.62 mmol, 0.4 g | C(C)OC=1C(C(C1NC1=C(C=CC=C1C)O)=O)=O | C13H13NO4
reactant | (R)-2-amino-3,3-dimethylbutane | N[C@H](C)C(C)(C)C | C6H15N
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (R)-3-(2-hydroxy-6-methylphenylamino)-4-(2,2,1-trimethylpropyl-amino)-cyclobut-3-ene-1,2-dione | OC1=C(C(=CC=C1)C)NC=1C(C(C1N[C@@H](C(C)(C)C)C)=O)=O | C17H22N2O3
